US09085583B2
To a solution of methyl 3-methyl-1H-pyrazole-4-carboxylate (280 mg, 2 mmol) in N,N-dimethylformamide (30 mL) was added (bromoethyl)benzene (0.37 g, 2 mmol) and potassium carbonate (0.55 g, 4 mmol). The mixture was stirred at 20° C. for 12 hours. The solvent was evaporated in vacuo and the residue was purified by CXTH (Column: Dsisol, 10 μM, C18, 250 mm*50 mm; Mobile: acetonitrile (0.1% formic acid)—water (0.1% formic acid), acetonitrile from 30% to 70% in 80 minutes; oven: 20° C.; flow rate: 50 mL/minute, wavelength: 214 nm) to give crude methyl 5-methyl-1-phenethyl-1H-pyrazole-4-carboxylate (177 mg, 36%). The product was used for the next step directly. LRMS (M+H+) m/z: calcd. 244.12. found 244.

reactant | methyl 3-methyl-1H-pyrazole-4-carboxylate | 2 mmol, 280 mg | CC1=NNC=C1C(=O)OC | C6H8N2O2
reactant | (bromoethyl)benzene | 2 mmol, 0.37 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | potassium carbonate | 4 mmol, 0.55 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | methyl 5-methyl-1-phenethyl-1H-pyrazole-4-carboxylate | 177 mg, 36% | CC1=C(C=NN1CCC1=CC=CC=C1)C(=O)OC | C14H16N2O2
